US07700331B2
Decanoic acid (10.0 g, 58.1 mmol), vanillyl alcohol (8.05 g, 52.2 mmol), and lipase PS-C “Amano” I (enzyme immobilized on ceramic: 1.44 g) were measured and placed in a flask (500 ml), and toluene (200 ml) was added. Under an argon atmosphere, the mixture was heated with stirring in an oil bath at 40° C. for 2 hours. This reaction mixture was concentrated under reduced pressure, and dehydration was promoted by azeotropic effect. Toluene (150 ml) was further added to the concentrate, and the mixture was heated with stirring in an oil bath at 40° C. for 20 hours. The reaction mixture was again concentrated under reduced pressure, and heptane (200 ml) was added. The mixture was stirred at room temperature for 2.5 hours, and immobilized enzyme and precipitated vanillyl alcohol were removed by filtration. The filtrate was concentrated under reduced pressure to give a mixture (15.8 g) of vanillyl decanoate and decanoic acid. As a result of the analysis, the yield of vanillyl decanoate was 98% and the purity was 97.9 area % by HPLC. The mixture contained 8.6 wt % of decanoic acid relative to vanillyl decanoate.

reactant | Decanoic acid | 58.1 mmol, 10.0 g | C(CCCCCCCCC)(=O)O | C10H20O2
reactant | vanillyl alcohol | 52.2 mmol, 8.05 g | C(C1=CC(OC)=C(O)C=C1)O | C8H10O3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | vanillyl decanoate | 15.8 g | C(CCCCCCCCC)(=O)OCC1=CC(OC)=C(O)C=C1 | C18H28O4
